US05112836
6-Carbamoyl-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylic acid
A mixture of dibenzyl 6-cyano-1,2,3,4-tetrahydroquinoline-4.8 dicarboxylate (5 g), sodium hydroxide (4 g) in ethanol (50 ml) and water (500 ml) was refluxed for 18 hours. After cooling, water (100 ml) was added thereto. The mixture was adjusted to pH 2 by the addition of concentrated hydrochloric acid. The resulting precipitate was collected by filtration, washed with water and dried to give the title compound (1.87 g, 60.5%) which was recrystallized from DMF-ethanol to white crystals, mp 265° C.-266 ° C.

reactant | dibenzyl 6-cyano-1,2,3,4-tetrahydroquinoline-4.8 dicarboxylate | 5 g | C(#N)C=1C=C2C(CCNC2=C(C1)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C26H22N2O4
reactant | sodium hydroxide | 4 g | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 6-Carbamoyl-1,2,3,4-tetrahydroquinoline-4,8-dicarboxylic acid | 1.87 g, 60.5% | C(N)(=O)C=1C=C2C(CCNC2=C(C1)C(=O)O)C(=O)O | C12H12N2O5
